US07037932B2
4-Cyano-7-methoxy benzo[b]thiophene.
To a stirred solution of 4-bromo-7-methoxy benzo[b]thiophene (1.05 g, 4.32 mmol, 1 equiv.) in dry DMF (40 mL) was added copper(I)cyanide (3.885 g, 43.4 mmol, 10 equiv.) and the reaction mixture was heated at 150° C. overnight. The reaction mixture was cooled to ˜120° C. and then solid iron(III)chloride (1.58 g, 9.74 mmol) was added followed by 1 N HCl (CAUTION: HCN evolution—perform in a well vented hood!) The reaction mixture was heated at ˜100° C. for 2 hr before cooling to room temperature. Water, brine, and ethyl acetate were added and the layers were separated. The organic layer was washed with brine (3 times), dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The crude residue thus obtained was purified via medium pressure liquid chromatography eluting with 10% ethyl acetate/90% hexanes to afford the title compound (564 mg, 69%) as a colorless solid; □H (400 MHz, CDCl3) 4.06 (3H, s), 6.81 (1H, d, J=8 Hz), 7.56 (1H, d, J=6 Hz), 7.65 (1H, d, J=6 Hz), 7.71 (1H, d, J=8 Hz).

reactant | 4-bromo-7-methoxy benzo[b]thiophene | 4.32 mmol, 1.05 g, 1 equiv. | BrC1=CC=C(C=2SC=CC21)OC | C9H7BrOS
reactant | copper(I)cyanide | 43.4 mmol, 3.885 g, 10 equiv. | [Cu]C#N
reactant | HCl | 1 N | Cl | ClH
reactant | HCN | C#N | CHN
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
catalyst | iron(III)chloride | 9.74 mmol, 1.58 g | [Fe](Cl)(Cl)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 4-Cyano-7-methoxy benzo[b]thiophene | 564 mg, 69% | C(#N)C1=CC=C(C=2SC=CC21)OC | C10H7NOS
